US04239771
Lysine 2,3-dichloro-4-(2-thienylcarbonyl)-phenoxyacetate
16.55 g 2,3-Dichloro-4-(2-thienylcarbonyl)-phenoxyacetic acid and 35 ml water were added to a solution of 7.3 g 2,6-diaminohexanoic acid in 150 ml anhydrous ethanol at about 45° C. The reaction mixture was held at about 100° C. for 10 minutes and then the mixture was cooled. The cooled mixture was filtered to isolate 16 g precipitated salt. M.Pt. 225° C.

reactant | 2,3-Dichloro-4-(2-thienylcarbonyl)-phenoxyacetic acid | 16.55 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(=O)C=1SC=CC1 | C13H8Cl2O4S
reactant | water | 35 ml | O | H2O
reactant | 2,6-diaminohexanoic acid | 7.3 g | NC(C(=O)O)CCCCN | C6H14N2O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Lysine 2,3-dichloro-4-(2-thienylcarbonyl)-phenoxyacetate | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(=O)C=1SC=CC1.N[C@@H](CCCCN)C(=O)O | InChI=1S/C13H8Cl2O4S.C6H14N2O2/c14-11-7(13(18)9-2-1-5-20-9)3-4-8(12(11)15)19-6-10(16)17;7-4-2-1-3-5(8)6(9)10/h1-5H,6H2,(H,16,17);5H,1-4,7-8H2,(H,9,10)/t;5-/m.0/s1
